US04755511
By a method similar to that described in Preparation 3, 1-indanone was treated with glyoxylic acid monohydrate and hydrazine hydrate to give [5H]-indeno[1,2-c]pyridazin-3[2H]-one, m.p. 295° (from glacial acetic acid); ν(Nujol mull), 3300-2000, 1660, 1618, 1565 and 738 cm-1 ; δ-(DMSO-d6) 3.95 (2H,s,5-H2), 6.92 (1H,m,4-H), 7.46 (3H,m,6,7,8-H), 7.73 (1H,m,9-H).

reactant | 1-indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | glyoxylic acid monohydrate | O.C(C=O)(=O)O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [5H]-indeno[1,2-c]pyridazin-3[2H]-one | N=1NC(C=C2C1C1=CC=CC=C1C2)=O | C11H8N2O
